US07241785B2
A mixture of methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-5-phenyl-4-thiazolyl]propionate (487 mg), lithium hydroxide hydrate (117 mg), tetrahydrofuran (6 ml), water (4 ml) and methanol (4 ml) was stirred at room temperature for 1.5 hrs. 1N Hydrochloric acid (2.8 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-5-phenyl-4-thiazolyl]propionic acid (434 mg, yield 92%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 119–120° C.

reactant | methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-5-phenyl-4-thiazolyl]propionate | 487 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CC=2SC(=C(N2)CCC(=O)OC)C2=CC=CC=C2)C=C1 | C31H28N2O4S
reactant | lithium hydroxide hydrate | 117 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 2.8 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-5-phenyl-4-thiazolyl]propionic acid | 434 mg, yield 92% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CC=2SC(=C(N2)CCC(=O)O)C2=CC=CC=C2)C=C1 | C30H26N2O4S
